### PR TITLE
Contribute formalization of the Algebraic Small Object Argument

### PR DESCRIPTION
**Pull request by DenSinH**
Hi all,

I recently finished my thesis on formalizing the Algebraic Small Object Argument in UniMath. Part of the goals was to contribute this to the UniMath library at some point. My thesis can be found here: [thesis](https://studenttheses.uu.nl/handle/20.500.12932/45658), for those interested.

I have contributed the files which consist of:
- ModelCategories/*: files concerning basic theory of (natural) weak factorization systems and the definition of model categories
- ModelCategories/Generated/*: file concerning the Algebraic Small Object Argument construction, and some helper files
- DisplayedCats/*: Some files with the Arrow category, "Three" category and monad algebras as displayed categories
- Some contributions to colimits (concerning connected graphs and induction on them, this principle is set up in a way that it was sufficient for my thesis, but it can perhaps be generalized more) and to coproducts (UniMath was missing interactions between colimits over varying indexing sets, for which I wrote some code).

That is about it. I set up my code for the thesis in a way that I should mostly just be able to replace some import statements, so I hope there won't be too many issues compiling my files. I will check on it a bit, but any help with getting it to verify would be welcome.

Dennis Hilhorst

### CODE REVIEW

**Comment by DenSinH** [comment]
I don't know why the sanity checks test fails, as I do not know what it does or what the error means. I edited the .files file since I thought that's where I am supposed to add files that I added.

**Comment by nmvdw** [comment]
> I don't know why the sanity checks test fails, as I do not know what it does or what the error means. I edited the .files file since I thought that's where I am supposed to add files that I added.

In some of the PR's I did this week, I added files to the Bicategories package and the result was that the list of files is too long (I think). For that reason, the sanity checks failing is not related to this PR.

You can try `make sanity checks` on your computer to see whether they fail. If they succeed there, then you don't have to worry about the sanity checks.

**Comment by DenSinH** [comment]
I don't know what the check does, but I get a lot of this:
```
error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/NWFS.vo
error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LiftingWithClass.vo
error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WeakEquivalences.vo
error: *** UniMath/CategoryTheory/ModelCategories/MorphismClass.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
error: *** UniMath/CategoryTheory/ModelCategories/NWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/FFMonoidalStructure.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSSmallnessReduction.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
```

**Comment by nmvdw** [comment]
> I don't know what the check does, but I get a lot of this:
> 
> ```
> error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/NWFS.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LiftingWithClass.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
> error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WeakEquivalences.vo
> error: *** UniMath/CategoryTheory/ModelCategories/MorphismClass.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> error: *** UniMath/CategoryTheory/ModelCategories/NWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
> error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/FFMonoidalStructure.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSSmallnessReduction.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> ```

So, you added these files in `UniMath/CategoryTheory/.package/files`, and there the files are ordered according to dependency. This means that a file can only depend on files that are before it in that list, and not on the later ones. The error says that, for example, `LNWFSSmallnessReduction.v` should be after `MonoidalHelpers.v` in the list.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v [hunk 1]
```diff
@@ -0,0 +1,330 @@
...
+Qed.
+
+Definition arrow_mor11_eq {C : category}
+    {f f' : arrow C} {mor mor' : f --> f'} (H : mor = mor') :
+  arrow_mor11 mor = arrow_mor11 mor'.
+Proof.
+  exact (dirprod_pr2 (pathsdirprodweq (base_paths _ _ H))).
+Qed.
+
+Section Colims.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v:109]: For this section: some proof might become easier to write down if you split them up into multiple definitions. For example, this file contains the construction of products in the iso-comma category: https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/limits/Examples/IsoCommaLimits.v#L121

I created a separate section with the shared arguments, and I created intermediate definitions for the relevant subparts.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 2]
```diff
@@ -0,0 +1,372 @@
...
+   For example in SET, we could have a map in
+   the arrow category sending everything to one element, factorize
+   it through (self, id), we may have multiple morphisms in the middle,
+   so long as the one element maps properly... 
+   
+   So we have to do things the long way: *)
+Definition three_disp_ob_mor : disp_cat_ob_mor (arrow C).
+Proof.
+  use make_disp_cat_ob_mor.
+  - exact ((λ xy, ∑ z (xz : (arrow_dom xy) --> z) (zy : z --> (arrow_cod xy)), xz · zy = arrow_mor xy)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:28]: If I understand this correctly, this is a commutative triangle, right? Would the name `triangle` be more suitable for this construction rather than `three`?

**Comment by DenSinH** [comment]
> > I don't know what the check does, but I get a lot of this:
> > ```
> > error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/NWFS.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Examples.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LiftingWithClass.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Lifting.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/MorphismClass.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/ModelCategory.vo should not require UniMath/CategoryTheory/ModelCategories/WeakEquivalences.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/MorphismClass.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/NWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Retract.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/WFS.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/NWFSisWFS.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/FFMonoidalStructure.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/GenericFreeMonoidSequence.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/Helpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSClosed.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSCocomplete.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/LNWFSMonoidalStructure.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSHelpers.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> > error: *** UniMath/CategoryTheory/ModelCategories/Generated/LNWFSSmallnessReduction.vo should not require UniMath/CategoryTheory/ModelCategories/Generated/MonoidalHelpers.vo
> > ```
> 
> So, you added these files in `UniMath/CategoryTheory/.package/files`, and there the files are ordered according to dependency. This means that a file can only depend on files that are before it in that list, and not on the later ones. The error says that, for example, `LNWFSSmallnessReduction.v` should be after `MonoidalHelpers.v` in the list.

I see, I will try to fix this and push it once the Build on Linux check either passes or fails since it seems to take a while

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 3]
```diff
@@ -0,0 +1,372 @@
...
+  - (* double commutative square *)
+    simpl.
+    intros xy ab H0 H1 fff.
+    destruct H0 as [z [xz [zy]]].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:32]: In my experience, it is better to avoid `destruct` and `induction` in situations like this. If one would destruct here, then this definition only simplifies when you give it something of the shape `_ ,, _`. This is not the case when you have an arbitrary variable, and then one is forced to use `destruct` or `induction` everywhere. It would be better to use projections.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 4]
```diff
@@ -0,0 +1,372 @@
...
+    { intro. apply isapropdirprod; apply homset_property. }
+
+    (* left identity in base category *)
+    simpl.
+    etrans. apply id_left.
+
+    destruct ff as [ff H].
+    apply pathsinv0.
+    
+    (* todo: understand this *)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:83]: Do you have a concrete question?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 5]
```diff
@@ -0,0 +1,372 @@
...
+    apply pathsdirprod; assumption.
+  - reflexivity.
+  - apply subtypePath; [intro; apply isapropdirprod; apply homset_property|].
+    cbn.
+    rewrite pr1_transportf.
+    rewrite transportf_const.
+    assumption.
+Qed.
+
+Definition three_mor_eq' {C : category} {x y : three C} {f g : x --> y}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:168]: What is the advantage of `three_mor_eq'` and `three_mor_eq''` over `three_mor_eq`?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 6]
```diff
@@ -0,0 +1,372 @@
...
+  - use colimOfArrows.
+    * intro v.
+      exact (three_mor01 (dob d v)).
+    * intros u v e.
+      exact (pathsinv0 (pr1 (three_mor_comm (dmor d e)))).
+  - use tpair.
+    * use colimOfArrows.
+      + intro v.
+        exact (three_mor12 (dob d v)).
+      + intros u v e.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:225]: `abstract` can be used here

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 7]
```diff
@@ -0,0 +1,372 @@
...
+  (* dom / cod are colims of dom / cod *)
+  exists (colim clbase).
+
+  (* arrow colim is colim of arrows *)
+  exists (colim cl11).
+  use tpair.
+  - use colimOfArrows.
+    * intro v.
+      exact (three_mor01 (dob d v)).
+    * intros u v e.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:219]: `abstract` can be used here

File: UniMath/CategoryTheory/Chains/Chains.v [hunk 8]
```diff
@@ -131,3 +131,21 @@ End cocont.
 
 Definition omega_cocont_functor (C D : category) : UU :=
   ∑ (F : functor C D), is_omega_cocont F.
+
+Definition Chains (C : category) : UU :=
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Chains/Chains.v:135]: Is `Chains` a suitable name here? Would something like `chain_cocomplete` be more suitable?

File: UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+  - exact (MonadAlg_disp_data T).
+  - abstract (
+      repeat split; intros; try (apply homset_property);
+      apply isasetaprop;
+      apply homset_property
+    ).
+Defined.
+
+(* todo: this is not in my version of UniMath? *)
+Lemma category_eq (C D : category) :
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v:74]: It should be here: https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Core/Categories.v#L205

Which version are you using?

File: UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+  (C:precategory_data) = (D:precategory_data) -> C=D.
+Proof.
+  intro e. apply subtypePath. intro. apply isaprop_has_homsets.
+  apply subtypePath'.
+  { assumption. }
+  apply isaprop_is_precategory.
+  apply homset_property.
+Qed.
+
+Corollary catiso_to_category_path {A B : category}
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v:84]: See `https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/CategoryEquality.v#L241`

File: UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v [hunk 11]
```diff
@@ -0,0 +1,126 @@
...
+  (F : catiso A B) : A = B.
+Proof.
+  apply category_eq.
+  apply catiso_to_precategory_data_path.
+  assumption.
+Qed.
+
+Definition MonadAlg_disp_Algebra_functor {C : category} (T : Monad C) :
+    total_category (MonadAlg_disp T) ⟶ (MonadAlg T).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v:93]: It might be good to give a name to this total category

**Review by nmvdw — COMMENTED** [review]
This looks very interesting!

I will review this PR in multiple steps. Up to now, I reviewed all files except for those about model categories. 

I have one general remark: for the file about model categories, would it be possible to add a header for them (an example would be https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/EnrichedCats/Enrichment.v). The header doesn't have to be long, but it would be nice if it had:
- A title
- A (short) description of the contents of the file
- Possibly a table of contents that indicates the main content of the file
- Possibly some references

Another question that I have: are there points where you use univalent categories? I didn't look at model categories yet, so I might have missed it.

**Comment by DenSinH** [comment]
> Another question that I have: are there points where you use univalent categories? I didn't look at model categories yet, so I might have missed it.

I have not used univalent categories anywhere, this is one of the main "results" of my thesis as well: that the Algebraic Small Object Argument only requires the notion of category (as in UniMath), and no further refinement. 

Regarding the header: I will look at this!

File: UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v (hunk 10 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/MonadAlgebras.v:84]: Whoops, I left those in there since they were not in the version of UniMath that I was using at the time, I will remove this

File: UniMath/CategoryTheory/Chains/Chains.v (hunk 8 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/Chains/Chains.v:135]: I named it `Chains` because I thought it resembled the name `Colimits`, most but I guess it should be `chain_cocomplete` yes

File: UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v [hunk 12]
```diff
@@ -0,0 +1,330 @@
...
+    (γ γ' : f --> g) 
+    (H00 : arrow_mor00 γ = arrow_mor00 γ')
+    (H11 : arrow_mor11 γ = arrow_mor11 γ') :
+  γ = γ'.
+Proof.  
+  apply subtypePath; [intro; apply homset_property|].
+  apply pathsdirprod; assumption.
+Qed.
+
+Coercion mor_to_arrow_ob {C : category} {x y : C} (f : x --> y) : arrow C :=
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v:70]: This worked extremely well, never had to fiddle with it!

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v (hunk 4 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:83]: This is an old comment from when I was less adept at UniMath/HoTT, I understand what is going on now but forgot to remove this comment

**Review by nmvdw — COMMENTED** [review]
I have some questions:
- What can you say about the homotopy category (https://ncatlab.org/nlab/show/homotopy+category#for_categories_with_weak_equivalences)? If you would formalize this, does it have a set of morphisms? Or would I get something weaker? Is the homotopy category univalent?
- You need the axiom of choice in your development. Suppose, that I want to remain fully constructive and that I want to avoid the axiom of choice completely. What extra assumptions would I need on weak factorization systems/lifting properties to avoid the axiom of choice? The direction in which I am thinking, is that in the current development of weak factorization systems, the lifts are required to merely exist. However, constructively, one might to have actual existence (`lp` vs `elp`).
- Would this development work for precategories (without the assumption that the morphisms form a set) as well? Or is the assumption that the morphisms form a set essentially needed?

**Comment by DenSinH** [comment]
> I have some questions:
> 
> * What can you say about the homotopy category (https://ncatlab.org/nlab/show/homotopy+category#for_categories_with_weak_equivalences)? If you would formalize this, does it have a set of morphisms? Or would I get something weaker? Is the homotopy category univalent?

I am not an expert on the homotopy category, as my main focus was on the (algebraic) small object argument. I would guess it would have a set of morphisms, as it is basically like a quotient of the category itself.

> * You need the axiom of choice in your development. Suppose, that I want to remain fully constructive and that I want to avoid the axiom of choice completely. What extra assumptions would I need on weak factorization systems/lifting properties to avoid the axiom of choice? The direction in which I am thinking, is that in the current development of weak factorization systems, the lifts are required to merely exist. However, constructively, one might to have actual existence (`lp` vs `elp`).

Regarding this point: the axiom of choice is only needed in the more "classical" theory of weak factorization systems, in the theory of **natural** weak factorization systems, this choice is baked in, in the form of the functorial factorization, making it no longer an issue. That is to say: in the Algebraic Small Object Argument, the axiom of choice is _not_ used or needed.

> * Would this development work for precategories (without the assumption that the morphisms form a set) as well? Or is the assumption that the morphisms form a set essentially needed?

I do use the homset property a lot, I think it is required, as the arrow category is not a category if the base category is merely a precategory. I compare morphisms in the arrow category a lot, for which the commutativity constraint should be propositional, or proofs would become extremely messy. I am not 100% certain though if this is required, but my guess is that it is.

File: UniMath/CategoryTheory/ModelCategories/Lifting.v [hunk 13]
```diff
@@ -0,0 +1,177 @@
...
+Section Lp.
+Local Open Scope logic.
+Definition llp (R : morphism_class C) : (morphism_class C) :=
+    λ {x y : C} (f : x --> y), ∀ (a b : C) (g : a --> b), ((R _ _) g ⇒ lp f g).
+Definition rlp (L : morphism_class C) : (morphism_class C) :=
+    λ {a b : C} (g : a --> b), ∀ (x y : C) (f : x --> y), ((L _ _) f ⇒ lp f g).
+End Lp.
+
+(* https://github.com/rwbarton/lean-model-categories/blob/e366fccd9aac01154da9dd950ccf49524f1220d1/src/category_theory/model/wfs.lean#L24 *)
+(* MCAT: Lemma 14.1.9 *)
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/ModelCategories/Lifting.v:57]: The book "More Concise Algebraic Topology" by May

**Comment by DenSinH** [comment]
Is there an easy way to update UniMath on Windows? It is a bit tough to fix all these changes between versions this way...

**Comment by nmvdw** [comment]
> Is there an easy way to update UniMath on Windows? It is a bit tough to fix all these changes between versions this way... I will also not have much time to fix things in the coming weeks as I will be going on a vacation soon.

That is no issue. I don't expect there will be a PR that will create a merge conflict with your PR.

I do not know how to update UniMath on Windows (I use Mac OS, and I use the usual git commands).

**Comment by DenSinH** [comment]
> > Is there an easy way to update UniMath on Windows? It is a bit tough to fix all these changes between versions this way... I will also not have much time to fix things in the coming weeks as I will be going on a vacation soon.
> 
> That is no issue. I don't expect there will be a PR that will create a merge conflict with your PR.
> 
> I do not know how to update UniMath on Windows (I use Mac OS, and I use the usual git commands).

I don't mean to update the code I am editing, but the installed version of UniMath on my PC so I can debug this in a local environment instead of having to use the GitHub CLI results to see if the files verify 😅

**Comment by nmvdw** [comment]
> > > Is there an easy way to update UniMath on Windows? It is a bit tough to fix all these changes between versions this way... I will also not have much time to fix things in the coming weeks as I will be going on a vacation soon.
> > 
> > 
> > That is no issue. I don't expect there will be a PR that will create a merge conflict with your PR.
> > I do not know how to update UniMath on Windows (I use Mac OS, and I use the usual git commands).
> 
> I don't mean to update the code I am editing, but the installed version of UniMath on my PC so I can debug this in a local environment instead of having to use the GitHub CLI results to see if the files verify 😅

So, you did `make install`?

**Comment by DenSinH** [comment]
> > > > Is there an easy way to update UniMath on Windows? It is a bit tough to fix all these changes between versions this way... I will also not have much time to fix things in the coming weeks as I will be going on a vacation soon.
> > > 
> > > 
> > > That is no issue. I don't expect there will be a PR that will create a merge conflict with your PR.
> > > I do not know how to update UniMath on Windows (I use Mac OS, and I use the usual git commands).
> > 
> > I don't mean to update the code I am editing, but the installed version of UniMath on my PC so I can debug this in a local environment instead of having to use the GitHub CLI results to see if the files verify 😅
> 
> So, you did `make install`?

No I used some binary installer, but I am not sure where I found that or if it can be used to install/update to a newer version

**Comment by benediktahrens** [comment]
> No I used some binary installer, but I am not sure where I found that or if it can be used to install/update to a newer version

You probably used the Coq Platform? The latest version (which is not very recent) is here: https://github.com/coq/platform/releases/tag/2023.03.0. I am not sure if the version of UniMath it features is more recent than what you currently have.

**Comment by benediktahrens** [comment]
@DenSinH : There is currently this compilation error:
```
  File "./UniMath/CategoryTheory/ModelCategories/NWFS.v", line 277, characters 3-24:
  Error:
  In environment
  C : category
  F : functorial_factorization C
  Π : fact_R F ∙ fact_R F ⟹ fact_R F
  R : disp_Monad_laws (R_monad_data F Π)
  The term "R_monad_data F Π,, R" has type "∑ y, disp_Monad_laws y"
  while it is expected to have type "Monad (arrow C)".
```
This could be because of a change of implicit arguments or similar. Could you take a look? 

If you need help getting a more recent version of UniMath onto your machine, please let us know. We would be very happy to help.

**Comment by DenSinH** [comment]
I'll be back from vacation tomorrow, so I can take a better look, but some help getting a newer version on my system would be greatly appreciated, it would simplify the merging process a lot! Is there a way to update the version I have, or a good way of (re)installing it on Windows?

**Comment by DenSinH** [comment]
> > No I used some binary installer, but I am not sure where I found that or if it can be used to install/update to a newer version
> 
> You probably used the Coq Platform? The latest version (which is not very recent) is here: https://github.com/coq/platform/releases/tag/2023.03.0. I am not sure if the version of UniMath it features is more recent than what you currently have.

I did indeed install it with a binary installer from here, but using the latest one does not seem to install the newest version of UniMath...

**Comment by benediktahrens** [comment]
To get the latest version of UniMath, you have to compile it from source. But it is possible that the latest version is not required, and that the latest binary version has everything you need?

**Comment by benediktahrens** [comment]
There is the following build error:
```
  File "./UniMath/CategoryTheory/ModelCategories/Generated/OneStepMonad.v", line 954, characters 4-26:
  Error: Error: The variable CoproductArrow_eq' was not found in the current
  environment.
  ```
  Possibly this definition has been moved around?

**Comment by DenSinH** [comment]
> To get the latest version of UniMath, you have to compile it from source. But it is possible that the latest version is not required, and that the latest binary version has everything you need?

What I ended up doing was copying the files related to Monads to my own project, adding them as if they were part of it (so I only had to remove the "UniMath." part of the Import statements) and then fixing all the issues. It seems to be working!

**Comment by DenSinH** [comment]
> There is the following build error:
> 
> ```
>   File "./UniMath/CategoryTheory/ModelCategories/Generated/OneStepMonad.v", line 954, characters 4-26:
>   Error: Error: The variable CoproductArrow_eq' was not found in the current
>   environment.
> ```
> 
> Possibly this definition has been moved around?

No this is a temporary definition that I added since the existing one was not in my version of UniMath, I removed it and am creeping closer to a succesfull build!

**Comment by DenSinH** [comment]
I added a ComonadCoalgebras file (by modifying the existing MonadAlgebras file), but it does not have all the equivalent theory of the existing MonadAlgebras file, since I did not need all of it, and I am no expert in the remaining theory.

**Comment by DenSinH** [comment]
Alright, seems like it builds! I will fix some more remarks

File: UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v [hunk 14]
```diff
@@ -0,0 +1,330 @@
...
+Definition mors_to_arrow_mor {C : category} {a b x y : C} (f : a --> b) (g : x --> y) 
+    (h : a --> x) (k : b --> y) (H : h · g = f · k) : (mor_to_arrow_ob f) --> (mor_to_arrow_ob g).
+Proof.
+  use tpair.
+  - exact (make_dirprod h k).
+  - abstract (exact H).
+Defined.
+
+Definition opp_arrow {C : category} (g : arrow C) : arrow (op_cat C) :=
+    (make_dirprod (arrow_cod g) (arrow_dom g),, arrow_mor g).
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v:82]: This does not work.

**Comment by DenSinH** [comment]
I guess the LNWFSMonoidalStructure file takes a REALLY long time to verify in the CLI, I am not sure why that is, as it definitely takes a lot less time on my own PC... I am not sure if this is an issue, but this is also the file that takes the longest to compile for me, but I am not sure I can really split up the slower proofs (presumably `LNWFS_lcomp_comul_mul_law11` and `LNWFS_lcomp_comul_monad_laws` any more...

**Comment by DenSinH** [comment]
I added some comments to the main files in this contribution (in order of the theory):
- WFS.v
- ModelCategory.v
- NWFS.v
- SmallObjectArgument.v

**Comment by DenSinH** [comment]
The leftover remarks seem to mostly be details / renaming certain things, or things that would require a lot of effort to change (like using the alternative arrow (twosided) displayed category definition, which would require a LOT of refactoring I feel like). I am not sure how much time I will have the coming days to look at it again, but if others feel inclined to refactor some of the details, that would be great! If there are other things I can answer questions about, I would gladly still do that or make some changes, but I would rather not spend too much time on details like those in the leftover remarks in my contribution.

**Comment by nmvdw** [comment]
> The leftover remarks seem to mostly be details / renaming certain things, or things that would require a lot of effort to change (like using the alternative arrow (twosided) displayed category definition, which would require a LOT of refactoring I feel like)

For some of my suggestions, you can also say 'that is for another PR'. If a refactoring takes a lot of work, then it is indeed better to move it to another PR.

**Comment by DenSinH** [comment]
> > The leftover remarks seem to mostly be details / renaming certain things, or things that would require a lot of effort to change (like using the alternative arrow (twosided) displayed category definition, which would require a LOT of refactoring I feel like)
> 
> For some of my suggestions, you can also say 'that is for another PR'. If a refactoring takes a lot of work, then it is indeed better to move it to another PR.

Ah right! I will have a look at it again probably Saturday. There were some things that I think I can just change without too much effort, but I will say this at the other remarks!

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v (hunk 3 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:32]: resolved in upcoming commit

File: UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v [hunk 15]
```diff
@@ -0,0 +1,330 @@
+Require Import UniMath.MoreFoundations.All.
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v:1]: Using this would require a lot of refactoring, would be suitable for a different PR perhaps.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v (hunk 2 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:28]: I'd rather have renaming happen in a different PR.

File: UniMath/CategoryTheory/Chains/Chains.v (hunk 8 above)
Comment (DenSinH) [reply UniMath/CategoryTheory/Chains/Chains.v:135]: I'd rather have renaming happen in a different PR.

File: UniMath/CategoryTheory/ModelCategories/Retract.v [hunk 16]
```diff
@@ -0,0 +1,122 @@
...
+  (ix · rx = identity x') × (iy · ry = identity y') 
+  × (ix · f = f' · iy) × (rx · f' = f · ry).
+
+Definition make_is_retract {x y x' y' : C} {f : x --> y} {f' : x' --> y'}
+    {ix : x' --> x} {rx : x --> x'} {iy : y' --> y} {ry : y --> y'}
+    (hx : rx ∘ ix = identity x') (hy : ry ∘ iy = identity y')  
+    (hi : f  ∘ ix = iy ∘ f') (hr : f' ∘ rx = ry ∘ f): is_retract f f' ix rx iy ry :=
+  make_dirprod hx (make_dirprod hy (make_dirprod hi hr)).
+
+Definition retract {x y x' y' : C} (f : x --> y) (f' : x' --> y') : UU :=
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/ModelCategories/Retract.v:44]: I feel like this would require a lot of refactoring, so I'd rather do this in another PR.

File: UniMath/CategoryTheory/ModelCategories/MorphismClass.v [hunk 17]
```diff
@@ -0,0 +1,170 @@
...
+Definition morphism_class_retract_closure 
+    {C : category} (S : morphism_class C) : morphism_class C :=
+  λ x y (f : x --> y), ∃ x' y' (f' : x' --> y'), (S _ _ f') × (retract f' f).
+
+Notation "S ^cl" := (morphism_class_retract_closure S) (at level 70) : morcls.
+
+Definition morphism_class_retract_closed 
+    {C : category} (S : morphism_class C) : UU :=
+  ∏ x y (f : x --> y) x' y' (f' : x' --> y'), 
+    (S _ _ f') × (retract f' f) -> (S _ _ f).
```
[the remark this answers is not in the document]
Comment (DenSinH) [reply UniMath/CategoryTheory/ModelCategories/MorphismClass.v:107]: This might require some refactoring in NWFSisWFS.v

**Comment by DenSinH** [comment]
The last couple of remarks seem to most be related to renaming/refactoring. I think this would be better fit for a different PR, unless there are some really stringent changes that need to be made, so as far as I am concerned the PR is ready to be merged.

**Comment by nmvdw** [comment]
> The last couple of remarks seem to most be related to renaming/refactoring. I think this would be better fit for a different PR, unless there are some really stringent changes that need to be made, so as far as I am concerned the PR is ready to be merged.

I will look at it again next Saturday

**Comment by DenSinH** [comment]
Any more remarks?

**Comment by benediktahrens** [comment]
> Any more remarks?

I think there is still an admitted result, which needs to be proved before the PR can be merged.

**Comment by DenSinH** [comment]
I cannot merge these files it seems...

**Comment by nmvdw** [comment]
> I cannot merge these files it seems...

These merge conflicts might be a bit annoying to solve. They came to be due to a renaming of files in another PR. So, the steps that are necessary are:
- merging the latest version of master (this will cause merge conflicts)
- changing all the places where you import these files (addressing the capitalization)
- moving some results from the old files to the new ones (these are the conflicting files)

@arnoudvanderleer do you have some scripts that could be helpful?

**Review by nmvdw — APPROVED** [review]

**Comment by arnoudvanderleer** [comment]
Unfortunately, I only have [scripts for renaming definitions/lemmas/theorems](https://github.com/arnoudvanderleer/refactor-coq), not imports/files.
However, it should not be very hard to update the imports. In most cases, dune will tell you upfront which imports are bad, so just compile, update (or find-replace) the names that pop up, repeat once or twice, and you should be good to go.

**Comment by DenSinH** [comment]
Just to clarify what I meant by I cannot merge these files: I am not permitted to resolve these conflicts as I do not have write permissions to the (upstream) UniMath repository.

**Comment by arnoudvanderleer** [comment]
> Just to clarify what I meant by I cannot merge these files: I am not permitted to resolve these conflicts as I do not have write permissions to the (upstream) UniMath repository.

Ah, I see what you mean. I think the statement
> This branch has conflicts that must be resolved
> Only those with [write access](https://docs.github.com/articles/what-are-the-different-access-permissions) to this repository can merge pull requests.
Is somewhat weird. There are merge conflicts, and the common way to resolve those is to merge the master branch into your own branch (instead of the other way around) and solve the merge conflicts there. That way, you don't need write access on the master branch, and if problems arise, you can fix them inside your PR instead of on the master branch.
